US09284331B2
Step 1: 5-(1-trityl-1H-imidazol-4-yl)oxazole.
A mixture of 1-trityl-1H-imidazole-4-carbaldehyde (25.0 g, 73.9 mmol), TosMIC (14.42 g, 73.9 mmol) and K2CO3 (10.21 g, 73.9 mmol) in MeOH (750 mL) was heated to reflux for 3 h. The mixture was then allowed to cool to RT, diluted with H2O, and extracted with AcOEt. The combined org. layers were then washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. Purification by flash chromatography (SiO2, heptane/AcOEt 100:0 to 0:100) gave the title compound (14.6 g). UPLC (2 min) rt 1.415 min.

reactant | 1-trityl-1H-imidazole-4-carbaldehyde | 73.9 mmol, 25.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C=O | C23H18N2O
reactant | TosMIC | 73.9 mmol, 14.42 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | K2CO3 | 73.9 mmol, 10.21 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 750 mL | CO | CH4O
solvent | H2O | O | H2O
product | 5-(1-trityl-1H-imidazol-4-yl)oxazole | 14.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C1=CN=CO1 | C25H19N3O
